US08008293B2
Synthesis of (2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester
A 4 N hydrochloric acid/ethyl acetate solution (90 mL) was added to (R)-2-t-butoxycarbonylamino-5-(4-fluorophenyl)-5-oxovaleric acid ethyl ester (6.33 g), and the resultant was stirred at room temperature for 2 hours. The solvent was removed under a vacuum, and ethanol (50 mL) and 10% palladium on carbon (6 g, 50% water content) was added, and under a hydrogen atmosphere, stirring was continued for 20 hours at room temperature. The catalyst was filtered off on celite, and the solvent was removed under vacuum. The resultant was diluted in ethyl acetate and washed with sodium bicarbonate aqueous solution and brine, in sequence. The solvent was removed under vacuum, and the resultant was purified with silica gel column chromatography (heptane/ethyl acetate), and the title compound (3.11 g) was obtained. The physical property values are as follows.

reactant | (R)-2-t-butoxycarbonylamino-5-(4-fluorophenyl)-5-oxovaleric acid ethyl ester | 6.33 g | C(C)OC([C@@H](CCC(=O)C1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O | C18H24FNO5
solvent | hydrochloric acid ethyl acetate | 4 N, 90 mL | Cl.C(C)(=O)OCC
product | (2R,5S)-5-(4-fluorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 3.11 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC=C(C=C1)F | C13H16FNO2
